US04803286
Step A: Preparation of Methyl 1,4-dioxa-7-thiaspiro [4,4]nonane-6-carboxylate
A solution of 1.60 g (10.0 mmol) of 2-carbomethoxy-2,3,4,5-tetrahydrothiophen-3-one (contained 15% of the 4-carbomethoxy isomer, Pfaltz and Bauer), 1.4 g (24.0 mmol) of ethylene glycol, and 0.02 g of p-toluenesulfonic acid dihydrate in 20 ml of benzene was heated at reflux in a flask equipped with a Dean-Stark trap for 40 hours. The cooled solution was washed with saturated sodium bicarbonate solution (10 ml), water (3×5 ml), and brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give 1.48 g of an oil. The oil was flash chromatographed on silica gel eluting with hexane:ether (3:1) to give 1.23 g (60%) product as an oil, a 5:1 mixture of the 6-carboxylate: 4-carboxylate; NMR (deuteriochloroform): δ 4.0 (m, 3H), 3.75 (S, 3H), 2.95 (m, 2H), 2.60 (d of d, 1H), 2.05 (d of d, 1H).

reactant | 2-carbomethoxy-2,3,4,5-tetrahydrothiophen-3-one | 10.0 mmol, 1.60 g | C(=O)(OC)C1SCCC1=O | C6H8O3S
reactant | ethylene glycol | 24.0 mmol, 1.4 g | C(CO)O | C2H6O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid dihydrate | 0.02 g | O.O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Methyl 1,4-dioxa-7-thiaspiro [4,4]nonane-6-carboxylate | 1.48 g | O1CCOC12C(SCC2)C(=O)OC | C8H12O4S
